US08378095B2
Step a—N-(2-(dimethylamino)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine
N-(2-(dimethylamino)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine was prepared by heating 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine (0.219 g, 1 mmol), potassium iodide (0.006 g, 0.03 mmol), potassium carbonate (0.060 g, 0.4 mmol) and 2-dimethylaminoethyl chloride hydrochloride (0.043 g, 0.3 mmol) in MeCN (2 ml) to 110° C. by microwave irradiation for 10 minutes. The crude reaction was purified by preparative HPLC to give the desired compound as a white solid, (0.025 g, 0.086 mmol). LCMS (3) 2.12 min; m/z (ES+) 291

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine | 1 mmol, 0.219 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | potassium iodide | 0.03 mmol, 0.006 g | [I-].[K+]
reactant | potassium carbonate | 0.4 mmol, 0.060 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.3 mmol, 0.043 g | Cl.CN(CCCl)C
solvent | MeCN | 2 ml | CC#N | C2H3N
product | N-(2-(dimethylamino)ethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine | CN(CCNC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C16H27BN2O2
